US08309546B2
Step 5: 6-Morpholin-4-yl-9-(tetrahydro-2H-pyran-2-yl)-2-(tributylstannyl)-9H-purine
6-Chloro-9-(tetrahydro-2H-pyran-2-yl)-2-(tributylstannyl)-9H-purine (3.3 g, 6.25 mmol) was dissolved in acetonitrile (30 ml) followed by the addition of morpholine (2.2 ml, 25 mmol) and the resulting mixture was heated to reflux for 1 hour. The reaction mixture was partitioned with ethyl acetate and saturated aqueous sodium bicarbonate solution, the organic layer was dried over magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=9:1 to 8:2) to give the title compound (3.3 g, 91%) as a pale yellow oil.

reactant | 6-Chloro-9-(tetrahydro-2H-pyran-2-yl)-2-(tributylstannyl)-9H-purine | 6.25 mmol, 3.3 g | ClC1=C2N=CN(C2=NC(=N1)[Sn](CCCC)(CCCC)CCCC)C1OCCCC1
reactant | morpholine | 25 mmol, 2.2 ml | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 6-Morpholin-4-yl-9-(tetrahydro-2H-pyran-2-yl)-2-(tributylstannyl)-9H-purine | 3.3 g, 91% | N1(CCOCC1)C1=C2N=CN(C2=NC(=N1)[Sn](CCCC)(CCCC)CCCC)C1OCCCC1 | InChI=1S/C14H18N5O2.3C4H9.Sn/c1-2-6-21-11(3-1)19-10-17-12-13(15-9-16-14(12)19)18-4-7-20-8-5-18;3*1-3-4-2;/h10-11H,1-8H2;3*1,3-4H2,2H3;
